data/mechanism_extracts/CommunChem/10.1038_s42004-022-00697-1.json
{"doi": "10.1038_s42004-022-00697-1", "journal": "CommunChem", "is_review": false, "rxn_class_summary": "Electroreductive hydrodifluoromethylation of unactivated, conjugated, and electron-rich alkenes (and alkynes) using sulfonyl-CF2H reagents with H2O or PhSH as H-source, via a two-pronged radical-polar crossover or HAT mechanism", "mechanism_family": ["radical_cathodic", "radical_polar_crossover", "sacrificial_anode", "direct_SET"], "electrochemical_role": "Cathodic single-electron reduction of ArSO2CF2H (Ph- or 2-pyridyl-sulfonyl difluoromethane) cleaves the S-C bond to release CF2H radical; sacrificial Zn anode is oxidized to Zn(2+) to balance charge", "key_intermediates": [{"name": "phenyl- or 2-pyridyl-sulfonyl difluoromethane (CF2H radical precursor, A)", "smiles": "O=S(=O)(c1ccccc1)C(F)F", "role": "reactive"}, {"name": "CF2H radical (B)", "smiles": "[CH](F)F", "role": "transient"}, {"name": "carbon-centered (often benzylic) radical D from CF2H addition to alkene", "smiles": null, "role": "transient"}, {"name": "carbanion E from further cathodic reduction of D (path A, radical-polar crossover)", "smiles": null, "role": "transient"}, {"name": "hydrodifluoromethylated product F (=3/10/12)", "smiles": null, "role": "reactive"}, {"name": "thiyl radical PhS• (from PhSH after HAT, path B)", "smiles": "[S]c1ccccc1", "role": "transient"}, {"name": "vinyl radical intermediate from CF2H addition to alkyne (Int-10v / pre-16)", "smiles": null, "role": "transient"}], "electron_flow": "Cathode delivers one electron to ArSO2CF2H, fragmenting it into ArSO2– and a CF2H radical that adds to the alkene to give carbon radical D; for EWG/aryl alkenes D is further reduced at the cathode to carbanion E which is protonated by H2O (path A, ECEC radical-polar crossover), whereas for alkyl/EDG alkenes D abstracts H from PhSH (path B, HAT). The Zn anode is sacrificially oxidized to Zn(2+).", "rate_determining_step": null, "probe_reagents": [{"name": "D2O instead of H2O", "smiles": "[2H]O[2H]", "purpose": "isotope_label", "observation": "58% D incorporation at the benzylic position, consistent with protonation of carbanion E by water (path A)"}, {"name": "piperidine-d11", "smiles": null, "purpose": "isotope_label", "observation": "Only 10% D incorporation, ruling out amine α-C–H as the dominant H source"}, {"name": "vinylcyclopropane 6a (R1=Ph)", "smiles": "C(=C)(c1ccccc1)C1CC1", "purpose": "radical_clock", "observation": "Ring-opened product 8a formed (36%); fast benzyl radical opening (k~10^8 s^-1) outcompetes reduction"}, {"name": "vinylcyclopropane 6b (R1=H)", "smiles": "C(=C)C1CC1", "purpose": "radical_clock", "observation": "Cyclopropane intact (7b, 99%); slower opening (k~10^5 s^-1) shows reduction of benzylic radical (Int-8) is faster than ring-opening"}, {"name": "diallyl tosylamide 13", "smiles": "C=CCN(Cc=C)S(=O)(=O)c1ccc(C)cc1", "purpose": "radical_clock", "observation": "Cyclized pyrrolidine 14 obtained (88%, dr 3:1), confirming radical intermediacy"}, {"name": "voltaic profile monitoring (Eanode, Ecathode during electrolysis)", "smiles": null, "purpose": "redox_probe", "observation": "Ecathode ≈ –1.8 V matches onset of reduction of 2 (Ered = –2.2 V, Eonset ≈ –1.7 V); also overlaps reduction of benzylic radical 4→carbanion 5 (Ered ≈ –2.0 V), supporting radical-polar crossover"}, {"name": "control without H2O", "smiles": "O", "purpose": "other", "observation": "Yield drops to 2%, confirming H2O is the proton source in path A"}, {"name": "control without applied current", "smiles": null, "purpose": "on/off_light_or_current", "observation": "No reaction, confirming requirement for electrochemical SET"}, {"name": "2-pySO2CF2H (2-py reagent, less negative Ered)", "smiles": "O=S(=O)(c1ccccn1)C(F)F", "purpose": "redox_probe", "observation": "Required for highly conjugated/electron-poor alkenes (e.g. 1,3-butadiene 9v) because milder reduction potential enables RPC of stabilized radical Int-10v"}], "evidence_types_used": ["H/D_labeling", "radical_clock", "cyclic_voltammetry", "on/off_light_or_current", "kinetic_order", "product_isotope_distribution"], "evidence_strength": "strong", "notes": "Two pathways are explicitly proposed depending on alkene electronics: path A (radical-polar crossover, cathodic reduction of benzylic/EWG-stabilized radical D to carbanion E, then protonation by H2O) is favored for aryl/EWG-substituted alkenes with PhSO2CF2H or 2-pySO2CF2H; path B (HAT from PhSH) is favored for aliphatic/electron-rich alkenes where Ered(D/E) is too negative. Sacrificial Zn anode is essential (Mg and Al gave only 7% and 9% yield). Choice of CF2H precursor (Ph vs 2-py sulfonyl) tunes the reduction potential to match substrate radical Ered. Double hydrodifluoromethylation of arylalkynes proceeds via first HAT to vinyl radical, then RPC for the second addition, giving 1,1,3,3-tetrafluoropropan-2-yl groups."}
